US04508659
A mixture of isobutyl cyanoacetate (30 g), acetic anhydride (58 ml) and triethyl orthoformate (43 ml) was heated under reflux for 6 hours. The volatile material was evaporated and the residue was distilled to give isobutyl 2-cyano-3-ethoxy-2-propenoate, b.p. 130°-133° C./0.4 mm. A solution of this (6 g) in ethanol (30 ml) was mixed with benzylmethylamine (4 ml). The mixture was heated under reflux for 10 minutes and then cooled and diluted with water (50 ml). The solid was filtered and recrystallised from ethanol giving isobutyl 3-(benzylmethylamino)-2-cyano-2-propenoate, mp 105°-106° C.

reactant | isobutyl cyanoacetate | 30 g | C(#N)CC(=O)OCC(C)C | C7H11NO2
reactant | acetic anhydride | 58 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethyl orthoformate | 43 ml | C(OCC)(OCC)OCC | C7H16O3
product | isobutyl 2-cyano-3-ethoxy-2-propenoate | C(#N)C(C(=O)OCC(C)C)=COCC | C10H15NO3
